* C:\Users\Tom\OneDrive\Desktop\Assignments\Q2\Structured Eelectronic Design\Assignment3_reorganised\Assignment 3\Noise.asc
XU1 N003 0 out NM18_noise ID={ID} IG=0 W={W} L={L}
Ca N003 N002 {C_a}
V1 N001 0 V value=0 dc=0 dcvar=0 noise=0
Cf N003 0 {C_f}
E1 N002 0 N001 0 {L_A}
.lib SLiCAP.lib
* SPICE commands
* Antenna model
* Feedback network
* Controller noise
.lib SLiCAP.lib
.backanno
.end
