"Input noise modelling"
* /Users/arthuradmiraal/Documents/TU Delft/Master/StructuredElectronicsDesign/AntennaAssignment/NoiseModel.asc
XU1 Vout N002 0 0 CMOS18N W={W} L={L} ID={I_b}
Iin 0 N002 {I_in}
Vin N001 0 {V_in}
Rin N001 N002 {R_in}
Rload Vout 0 {R_load}
.lib SLiCAP.lib
.backanno
.end