"Loop gain of voltage-input dual feedback loop implementation"
* /Users/arthuradmiraal/Documents/TU Delft/Master/StructuredElectronicsDesign/AntennaAssignment2/cir/DualFB_NoiseModel.asc
XU1 N003 N005 0 0 CMOS18N l={L} w={W} ID={ID}
V1 N004 0 {E_in}
C_ant P001 N001 {C_ant}
T1 P001 0 N004 0 {l_ant}
H1 N002 N005 N003 Vout {B}
E1 N001 N002 Vout 0 {A}
R_load Vout 0 {R_load}
.lib SLiCAP.lib
.backanno
.end
