"Input noise modelling"
* /Users/arthuradmiraal/Documents/TU Delft/Master/StructuredElectronicsDesign/AntennaAssignment/NoiseModel.asc
Vant N001 0 {V_ant}
Cant N002 N001 {C_ant}
XU1 N002 0 Vout NM18_noise ID={I_D} IG={I_G} W={W} L={L}
.param V_ant=0 C_ant=1.5p I_G=0
.lib SLiCAP.lib
.backanno
.end